US07960552B2
A suspension of 700 mg (2.09 mmol) of methyl 7-{[(trifluoromethyl)sulfonyl]oxy}-3-isoquinolinecarboxylate, 715 mg (3.13 mmol) of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol, 240 mg (0.21 mmol) of tetrakistriphenylphosphine palladium(0) and 3.70 mL (3.31 mmol) of 2.0 M Na2CO3 (aq) in 10 mL of 1,2-dimethoxyethane was stirred at 90° C. for 20 min. The suspension was filtered through a pad of Celite® and the filter cake was washed with EtOAc. The combined organics were then evaporated and the residue purified by silica gel chromatography (40 g of silica gel eluting with 0-15% acetone in CH2Cl2 over 45 minutes) to give 360 mg (62%) of methyl 7-(4-hydroxyphenyl)-3-isoquinolinecarboxylate as a beige solid. 1H NMR (400 MHz, DMSO-d6): δ 9.75 (s, 1H), 9.38 (s, 1H), 8.42 (s, 1H), 8.23 (s, 1H), 8.21 (d, J=8 Hz, 1H), 8.15 (d, J=8 Hz, 1H), 7.72 (d, J=9 Hz, 2H), 6.91 (d, J=9 Hz, 2H), 3.91 (s, 3H). ESI-LCMS m/z 280 (M+H)+.

reactant | methyl 7-{[(trifluoromethyl)sulfonyl]oxy}-3-isoquinolinecarboxylate | 2.09 mmol, 700 mg | FC(S(=O)(=O)OC1=CC=C2C=C(N=CC2=C1)C(=O)OC)(F)F | C12H8F3NO5S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 3.13 mmol, 715 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)O)C | C12H17BO3
reactant | Na2CO3 | 3.31 mmol, 2.0 M, 3.70 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
product | methyl 7-(4-hydroxyphenyl)-3-isoquinolinecarboxylate | 360 mg, 62% | OC1=CC=C(C=C1)C1=CC=C2C=C(N=CC2=C1)C(=O)OC | C17H13NO3
